US07319102B1
Preparation of 3-(2-chlorophenyl)-3-[7-(2,6-difluorophenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester (14):
To a solution of 3-(2-chloro-phenyl)-3-[7-(2,6-difluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester, 13, (0.33 g, 0.68 mmol) in THF/methanol (4 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (1.46 g, 2.38 mmol) in H2O (4 mL). After stirring the reaction for 1 hour at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is extracted with CHCl3 and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo to afford 0.31 g of the desired product which is used without further purification.

reactant | 3-(2-chloro-phenyl)-3-[7-(2,6-difluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC2=C(N=C(N=C2)SC)N1C1=C(C=CC=C1F)F)C1=C(C=CC=C1)Cl)=O | C24H18ClF2N3O2S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF methanol | 4 mL | C1CCOC1.CO
solvent | H2O | 4 mL | O | H2O
product | 3-(2-chlorophenyl)-3-[7-(2,6-difluorophenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-acrylic acid ethyl ester | 0.31 g | C(C)OC(C=C(C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N1C1=C(C=CC=C1F)F)C1=C(C=CC=C1)Cl)=O | C24H18ClF2N3O4S
